US06797718B2
Under a nitrogen purge, 5% platinum on carbon (0.5 g) and toluene (5 mL) were added to a pressure vessel. A solution of (2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)-{2-[3-(1,3-thiazol-2-yl)propoxy]ethyl} amine (4.7 g, 11 mmol) in toluene (35 mL) was then added. The vessel was placed under hydrogen pressure (50 psi, 3.4×105 Pa) for 24 hours. The reaction mixture was filtered through a layer of CELITE filter aid, and the filtrate was concentrated under reduced pressure to yield 4.12 g of 5,6-dimethyl-2-phenoxy-N4-{2-[3-(1,3-thiazol-2-yl)propoxy]ethyl}pyridine-3,4-diamine as a pale yellow oil.

reactant | (2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)-{2-[3-(1,3-thiazol-2-yl)propoxy]ethyl} amine | 11 mmol, 4.7 g | CC1=NC(=C(C(=C1C)NCCOCCCC=1SC=CN1)[N+](=O)[O-])OC1=CC=CC=C1 | C21H24N4O4S
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | 5,6-dimethyl-2-phenoxy-N4-{2-[3-(1,3-thiazol-2-yl)propoxy]ethyl}pyridine-3,4-diamine | 4.12 g | CC=1C(=C(C(=NC1C)OC1=CC=CC=C1)N)NCCOCCCC=1SC=CN1 | C21H26N4O2S
